US04965261
To a stirred mixture of 50 ml of water, 150 ml of ether and 15.0 g of 2-methoxyphenol was added dropwise 12.7 ml of 61% nitric acid, and the mixture was stirred at room temperature for 15 minutes. The ether layer was separated from the aqueous layer and dried over anhydrous sodium sulfate. After the drying agent was filtered off, the solvent was distilled off under reduced pressure. The residue was purified by silica-gel column-chromatography using Wakogel® C-200 [eluent: chloroform-n-hexane (1:1)] to give 4.72 g of 2-methoxy-6-nitrophenol.

reactant | water | 50 ml | O | H2O
reactant | 2-methoxyphenol | 15.0 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | nitric acid | 12.7 ml | [N+](=O)(O)[O-] | HNO3
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-methoxy-6-nitrophenol | 4.72 g | COC1=C(C(=CC=C1)[N+](=O)[O-])O | C7H7NO4
